US07935724B2
2-Trityloxycarbamoyl-benzo[b]thiophene-6-carboxylic acid.
To a solution of 2-trityloxycarbamoyl-benzo[b]thiophene-6-carboxylic acid methyl ester (4.12 g, 8.35 mmol) in THF/MeOH (50/10 mL) was added 2 N NaOH (16 mL). After 1.5 h, added an additional 5 mL of 3 N NaOH. After another 1 h, added an additional 16 mL of 2 N NaOH, and stirred overnight. The solution was diluted with EtOAc (100 mL) and H2O (100 mL) and washed with EtOAc. The aqueous fractions were acidified with 5% citric acid, and extracted with EtOAc. The combined organic fractions were dried, filtered, and concentrated to yield the desired acid, which was used without further purification. MS (EI): cal'd (M−), 478.1, exp (M−), 478.6.

reactant | 2-trityloxycarbamoyl-benzo[b]thiophene-6-carboxylic acid methyl ester | 8.35 mmol, 4.12 g | COC(=O)C=1C=CC2=C(SC(=C2)C(NOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C1 | C30H23NO4S
reactant | NaOH | 2 N, 16 mL | [OH-].[Na+]
reactant | NaOH | 3 N, 5 mL | [OH-].[Na+]
reactant | NaOH | 2 N, 16 mL | [OH-].[Na+]
solvent | THF MeOH | 10 mL | C1CCOC1.CO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 100 mL | O | H2O
product | 2-Trityloxycarbamoyl-benzo[b]thiophene-6-carboxylic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)ONC(=O)C1=CC2=C(S1)C=C(C=C2)C(=O)O | C29H21NO4S
